US08648066B2
2-Amino-5-bromopyridine-3-sulfonyl chloride (100 mg, 0.37 mmol) was taken into 1:1 aqueous dioxane (3 mL) and the mixture was basified to pH 14 by drop wise addition of 50% aqueous sodium hydroxide solution. The mixture was warmed to 75° C. for 0.5 h then cooled to room temperature and concentrated. The residue was taken into water (2 mL) and carefully acidified to pH 1-2 by concentrated aqueous hydrochloric acid addition and cooled to 0° C. After 1 h at 0° C. the crystalline solid obtained was collected by filtration and dried to give 2-amino-5-bromopyridine-3-sulfonic acid as a solid. 1H NMR (DMSO-d6): 8.24 (d, 1H), 8.06 (d, 1H). MS (EI) for C5H5N2SO3Br: 253, 255 (MH+, Br pattern).

reactant | 2-Amino-5-bromopyridine-3-sulfonyl chloride | 0.37 mmol, 100 mg | NC1=NC=C(C=C1S(=O)(=O)Cl)Br | C5H4BrClN2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-amino-5-bromopyridine-3-sulfonic acid | NC1=NC=C(C=C1S(=O)(=O)O)Br | C5H5BrN2O3S
